US05932601
In substantially the same manner as in Reference Example 35, (E,E)-5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadien-1-ol was subjected to oxidation with activated manganese dioxide to yield (E,E)-5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadien-1-al, which was recrystallized from ethyl acetate to give colorless needles, m.p.133-134° C.

reactant | (E,E)-5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadien-1-ol | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)/C=C/C=C/CO | C23H23NO4
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | (E,E)-5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadien-1-al | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)/C=C/C=C/C=O | C23H21NO4
